US05945436
A slow, steady stream of hydrogen sulfide was passed into a toluene solution (75 ml) of α-(2-phenylethyl)-α-(2-propyl)-3-pyridineacetonitrile (3.5 g) in the presence of diethylamine (1 ml). More diethylamine was added at the end of 1 hour (0.5 ml) and 3 hours (0.5 ml). The resultant reaction mixture was then evaporated to dryness and the residue dissolved in methylene chloride and washed with saturated sodium bicarbonate and water. After washing, the remaining organic extract was dried over sodium sulfate and worked up to give a solid. Recrystallization with hexanes produced α-(2-phenylethyl)-α-(2-propynyl)-3-pyridinethanethioamide with a melting point of 73-74° C.

reactant | hydrogen sulfide | S | H2S
reactant | α-(2-phenylethyl)-α-(2-propyl)-3-pyridineacetonitrile | 3.5 g | C1(=CC=CC=C1)CCC(C#N)(C=1C=NC=CC1)C(C)C | C18H20N2
reactant | diethylamine | 1 ml | C(C)NCC | C4H11N
solvent | toluene | 75 ml | C1(=CC=CC=C1)C | C7H8
product | α-(2-phenylethyl)-α-(2-propynyl)-3-pyridinethanethioamide | C1(=CC=CC=C1)CCC(C(N)=S)(C=1C=NC=CC1)CC#C | C18H18N2S
